US04329347
6-(3-Phenylmercapto-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(3-bromopropoxy)-3,4-dihydro-carbostyril (m.p. 111°-118° C.) and thiophenol.

reactant | 6-(3-bromopropoxy)-3,4-dihydro-carbostyril | BrCCCOC=1C=C2CCC(NC2=CC1)=O | C12H14BrNO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 6-(3-Phenylmercapto-propoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCCOC=1C=C2CCC(NC2=CC1)=O | C18H19NO2S
